US07524860B2
To a suspension of 7-bromo-2-(3-ethyl-ureido)-[1,2,4]triazolo[1,5-a]pyridine-5-carboxylic acid ethyl ester prepared as in Example 16, Step 1 (0.080 g, 0.22 mmol) in dimethylsulfoxide (1 mL) was added pyrrolidine (0.2 mL). The reaction was stirred at 23° C. for 30 minutes, then 80° C. for 3 days. The reaction was then diluted with 2 volumes of water, acidified with 1N aqueous hydrogen chloride, then neutralized with saturated aqueous sodium bicarbonate and extracted with ethyl acetate (3×20 mL). The combined organic extracts were dried over sodium sulfate and evaporated in vacuo to give a colorless oily solid that was purified by silica gel chromatography (gradient elution: 0-20% isopropanol/dichloromethane) to give 1-ethyl-3-[5-(pyrrolidine-1-carbonyl)-7-pyrrolidin-1-yl-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-urea MS (APCI)=372.2 [M+H]

reactant | 7-bromo-2-(3-ethyl-ureido)-[1,2,4]triazolo[1,5-a]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC(=CC=2N1N=C(N2)NC(=O)NCC)Br | C12H14BrN5O3
reactant | pyrrolidine | 0.2 mL | N1CCCC1 | C4H9N
reactant | hydrogen chloride | 1N | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylsulfoxide | 1 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 1-ethyl-3-[5-(pyrrolidine-1-carbonyl)-7-pyrrolidin-1-yl-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-urea | C(C)NC(=O)NC1=NN2C(C=C(C=C2C(=O)N2CCCC2)N2CCCC2)=N1 | C18H25N7O2
